US09164384B2
In 200 g of acetic acid was dissolved 30 g of bis(4-butoxyphenyl) sulfide obtained in Synthesis Example 1-17. While the solution was maintained at an internal temperature of 30° C., 8.8 g of 35 wt % aqueous hydrogen peroxide was added dropwise. The reaction solution was aged at room temperature for 12 hours, after which under ice cooling, a mixture of 0.9 g sodium thiosulfate pentahydrate and 30 g water was added dropwise to quench the reaction. The solution was combined with 200 g of methylene chloride and 50 g of water for extraction. The organic layer was separated, washed with water, and concentrated in vacuum. On subsequent purification by silica gel chromatography, 28 g of the target compound, bis(4-butoxyphenyl) sulfoxide was obtained as amorphous solid. Yield 90%.

reactant | bis(4-butoxyphenyl) sulfide | 30 g | C(CCC)OC1=CC=C(C=C1)SC1=CC=C(C=C1)OCCCC | C20H26O2S
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium thiosulfate pentahydrate | 0.9 g | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 30 g | O | H2O
solvent | acetic acid | 200 g | C(C)(=O)O | C2H4O2
product | bis(4-butoxyphenyl) sulfoxide | Yield 90% | C(CCC)OC1=CC=C(C=C1)S(=O)C1=CC=C(C=C1)OCCCC | C20H26O3S
